US07390809B2
Step D: 7-[(3R)-3-[(tert-Butoxycarbonyl)amino]-4-(2,4,5-trifluorophenyl)butanoyl]-8-(cyclopropylmethyl)-2-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-α]pyrazine
A 35 mg portion of 8-(cyclopropylmethyl)-2-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-α]pyrazine hydrochloride was coupled to (3R)-3-[(tert-butoxycarbonyl)amino]-4-(2,4,5-trifluorophenyl)butanoic acid essentially following the procedure outlined in Example 2, Step D, with the following exception. The reaction mixture was stirred at ambient temperature for 24 h and then concentrated. The residue was purified by preparative TLC (silica gel, 10% methanol/dichloromethane) to provide 54 mg of the title compound as a mixture of diastereomers. The diastereomers were separated by HPLC (OD chiralcel column, 7% ethanol/hexane) to give the faster eluting diastereomer and the slower eluting diastereomer.

reactant | 8-(cyclopropylmethyl)-2-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-α]pyrazine hydrochloride | Cl.C1(CC1)CC1C=2N(CCN1)N=C(N2)C(F)(F)F
reactant | (3R)-3-[(tert-butoxycarbonyl)amino]-4-(2,4,5-trifluorophenyl)butanoic acid | C(C)(C)(C)OC(=O)N[C@@H](CC(=O)O)CC1=C(C=C(C(=C1)F)F)F | C15H18F3NO4
product | 7-[(3R)-3-[(tert-Butoxycarbonyl)amino]-4-(2,4,5-trifluorophenyl)butanoyl]-8-(cyclopropylmethyl)-2-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-α]pyrazine | 54 mg | C(C)(C)(C)OC(=O)N[C@@H](CC(=O)N1C(C=2N(CC1)N=C(N2)C(F)(F)F)CC2CC2)CC2=C(C=C(C(=C2)F)F)F | C25H29F6N5O3
